US05294734
11.1 g (27.9 mmol) of benzyl 6-acetoxy-4-bromomethyl-2-formylamino-hex-3-enoate and 30.5 ml (111.5 mmol) of 90% triisopropyl phosphite are heated to 80° C. and the mixture is stirred for 18 hours under a pressure of 100-150 mbar. Excess triisopropyl phosphite is removed by distillation and the residue is purified by chromatography over silica gel with ethyl acetate/isopropanol (7:1), giving benzyl 6-acetoxy-2-formylamino-4-diisopropylphosphonomethyl-hex-3-enoate as an orange oil.

reactant | benzyl 6-acetoxy-4-bromomethyl-2-formylamino-hex-3-enoate | 27.9 mmol, 11.1 g | C(C)(=O)OCCC(=CC(C(=O)OCC1=CC=CC=C1)NC=O)CBr | C17H20BrNO5
reactant | triisopropyl phosphite | 111.5 mmol, 30.5 ml | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
product | benzyl 6-acetoxy-2-formylamino-4-diisopropylphosphonomethyl-hex-3-enoate | C(C)(=O)OCCC(=CC(C(=O)OCC1=CC=CC=C1)NC=O)CP(=O)(OC(C)C)OC(C)C | C23H34NO8P
